Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
erythromycin base
 
Attending: ___.
 
Chief Complaint:
acute onset room spinning vertigo, headache, nausea and vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with a history of 

to prior intraparenchymal hemorrhages from a cerebral AVM status
post resection and CyberKnife, resultant epilepsy currently on
phenytoin, asthma, multiple allergies who presented with acute
onset room spinning vertigo, headache, nausea and vomiting.

Patient was in his usual state of health until around ___ this
morning.  He was working in the office at 1 of the ___ that
he works with when all of a sudden he experienced room spinning
vertigo and a "crushing headache".  Oddly patient is unable to
remember if he had a headache or not but his friends are in the
room said that at the time when they saw him he was complaining
of this headache.  Patient says he thinks the dizziness was just
so bad that he does not remember the headache.  Currently he
endorses a very mild dull headache in the front of his head. 
With the vertigo he was unable to walk but denies any falls.

Patient has a history of seizures secondary to interpretable
hemorrhage and AVM.  Patient sees Dr. ___ epilepsy and
is currently taking phenytoin, which he has been on for many
years.  Per last clinic note which was ___ his 
seizures
were very well controlled.  Currently patient says that he has
had about 3 generalized tonic-clonic seizures in his lifetime. 
Last one was many years ago.  He says his other typical seizures
are "petite mall" where he will have an aura that is difficult 
to
describe but it would sensation and then will have an episode of
staring for a few minutes.  He is unable to tell me how
frequently these happen when the last time he had a seizure was. 

His friends who were in the room say that the last time they
witnessed something was on ___ afternoon.  They think he 
might
have had a seizure because he had an episode of staring off into
space and not responding for a few minutes. 

There have been prior episodes the patient has accidentally 
taken
extra doses of his phenytoin cause dizziness and unsteadiness. 
Today patient adamantly denies that he has taken an extra dose 
of
phenytoin or started any new medications that may interact with
the phenytoin. He does say that he was started on a new allergy
medication recently but cannot remember the name. Read list of
recently filled medications and none are recognized as the new
medication. 

ROS: Patient endorses continued dizziness but says that the room
spinning vertigo has subsided.  Symptoms are worse when he looks
to the left.  He endorses some worsening of his mild left-sided
weakness that he has at baseline after his AVM.  He also feels
like the left side of his body is clumsy.  He currently endorses
a mild frontal headache.  He denies any loss of vision, blurred
vision, diplopia, sensory changes or paresthesias.  He denies 
any
fevers chills, upper respiratory infection symptoms, abdominal
pain, diarrhea, dysuria.

On neuro ROS: per HPI and the following, the pt denies loss of
vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies 
numbness,
parasthesiae. No bowel or bladder incontinence or retention. 
 
On general review of systems, per HPI and the following  the pt
denies recent fever or chills.  No night sweats or recent weight
loss or gain. Denies cough, shortness of breath.  Denies chest
pain or tightness, palpitations.  Denies nausea, vomiting,
diarrhea, constipation or abdominal pain.  No recent change in
bowel or bladder habits.  No dysuria.  Denies arthralgias or
myalgias. Denies rash.

 
Past Medical History:
PMH: 
AVM
Hemorrhagic stroke ___
Hemorrhage ___  
Resection of AVM
Epilepsy
Bone spur removed right foot
Cholecystectomy
                                                    
Surgical History  
SRS                                                   ___
CHOLECYSTECOMY   
 
Social History:
___
Family History:
grandfather had stroke when ___
Mother had lots of heart issues- CABG, pacemaker, HTN- died in
___ 
No family history of avms 
Denies family hx of diabetes 

 
Physical Exam:
ON ADMISSION:
===============
Physical Exam: T97.2, HR 86, BP 134/82, RR18, 98% RA 

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: RRR, warm, well-perfused
Abdomen: soft, non-distended
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive, able to name ___ backward without
difficulty. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects.  Able 
to
read without difficulty. Speech was not dysarthric. Able to
follow both midline and appendicular commands. There was no
evidence of apraxia or neglect. Registers ___ objects, gets ___
with categories, unable to get last one even with options. 

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI full with right
beating end gaze nystagmus when looking to the right that
extinguishes, left beating torsional nystagmus when looking to
the left, no nystagmus with up or down gaze, worsening dizziness
with left gaze, Fundoscopic exam showed right optic disc with
hyperpigmentation around disc, left with mild nasal blurring but
no overt papilledema, no hyperpigmentation on left.  Left
homonymous hemianopia, worse in upper quadrant
V: facial sensation on initial examination intact to light touch
V1-V3, repeat exam patient noted "subtle" difference on left
V1-V3 to LT, decreased pinprick left V1-V3, decreased temp left
V1-V2, V3 was symmetric.  
VII: left facial asymmetry (per friends is always asymmetric but
looks worse today), dissociation with emotional smile 
VIII: Hearing intact to conversation
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, mildly increased tone in left lower
extremity, with pronator drift testing left arm starts to bounce
up and down slightly with some pseudoathethoid movements of
fingers, left upper with mild pronation and cupping without
drift, left leg does the same bouncing without drift 
 No asterixis noted.
  Delt Bic Tri WrE  FE  FF  IP Quad Ham   TA ___  ___ 
L**4+  5   4+  4+  4+   5   +4   4+   4+   4+   5     5
R  ___   5   5    5    5    5    5   5    5     5
** for all left side patient would have brief moments of full
strength but examiner could break consistently, unclear if
actually weak or due to ataxia and difficulty coordinating
movements 

-Sensory: decreased sensation to pinprick in left arm and leg
(10% compared to right), decreased sensation to temperature on
the left arm and leg compared to the right. 
 patient is unable to perceive vibration in bilateral toes,
intact in ankles bilaterally, intact in bilateral upper
extremities, proprioception was absent on left big toe, patient
was unable to get many of the movements at the ankle as well on
the left, said "I am just guessing", proprioception intact and
right big toe to large movements, per perception decrease in
bilateral upper extremities as well with ___ out of 5 mistakes 
in
bilateral fingers.  Similar to the face patient initially tells
me that light touch is symmetric and intact in upper and lower
extremity but later says that there is a very subtle difference
in left side just feels off compared to the right
No extinction to DSS. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2+ 2    2+   3+   1
R  2  2    2    2+   1
Plantar response was flexor bilaterally.
*Cross adductors and suprapatella on the left 

-Coordination: With arms outstretched patient has rebound in the
left upper extremity to light tap, he has bilateral intention
tremor with finger to nose, left side he also has some mild
overshoot with finger to nose, heel to shin on the left is very
slow and uncoordinated, finger tapping on the left is slow and
uncoordinated rate is fast and smooth, he is unable to do
sequential finger tapping on the left, able to do on the right,
no truncal ataxia while sitting on the side of the bed with his
arms crossed

-Gait: Able to stand up from the bed unassisted, gait very wide
based,  gait is very slow and mildly unsteady.  He is able to
walk without holding onto me they gets very dizzy and feels very
unsteady when turning.  Unable to do tandem or Romberg due to
unsteadiness with regular gait

ON DISCHARGE:
=================
24 HR Data (last updated ___ @ 709)
    Temp: 98.7 (Tm 98.8), BP: 128/81 (108-154/68-86), HR: 63
(63-80), RR: 18 (___), O2 sat: 93% (93-97), O2 delivery: Ra

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple, no nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.

___ negative, HiNTS exam negative*

Neurologic:
-Mental Status: Alert, oriented x 3. Able to relate history
without difficulty. Attentive to exam. Language is fluent with
intact comprehension. Normal prosody. There were no paraphasic
errors. No dysarthria. Able to follow both midline and
appendicular commands. There was no evidence of apraxia or
neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with
resolution of previous right beating nystagmus. Normal
saccades. Left homonymous hemianopia. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing grossly intact.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. 

-Motor: Normal bulk and tone throughout. Subtle left pronator
drift. No adventitious movements, such as tremor or asterixis
noted.
  [___]
L    5    4+   5    4    4    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch, pinprick, temperature, 
vibration, or proprioception throughout. 

-Reflexes: No change from admission.
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Ataxic on FNF, L>R. Improved 
from admission.

-Gait: narrow based, good stride and arm swing. Negative 
Romberg.

 
Pertinent Results:
___ 12:32PM BLOOD 
WBC-7.3 
RBC-4.41* 
Hgb-14.1 
Hct-42.3 
MCV-96 
MCH-32.0 
MCHC-33.3 
RDW-13.8 
RDWSD-48.9* 
Plt ___

___ 
PTT-23.3* 
___

Glucose-163* 
UreaN-12 
Creat-0.9 
Na-144 
K-3.5 
Cl-107 
HCO3-23 
AnGap-14

Albumin-3.8 
Calcium-8.7 
Phos-2.7 
Mg-2.2 
Iron-146

ALT-24 
AST-21 
LD(LDH)-154 
AlkPhos-96 
TotBili-0.3

cTropnT-<0.01

%HbA1c-5.1 

Cholest-214*
Triglyc-67 
HDL-57 
CHOL/HD-3.8 
LDLcalc-144*

TSH-1.3

Phenyto-9.0*

ASA-NEG 
Ethanol-NEG 
Acetmnp-NEG 
Tricycl-NEG

Lactate-2.8*

EKG: Normal sinus rhythm

Radiologic Data:
CT/CTA head and neck 
1. No evidence of acute core infarction.  No evidence of
intracranial hemorrhage. 
2. Stable right middle cranial fossa residual AVM with
approximately 4 mm  aneurysm as described above which appears to
have decreased in size since the previous CTA examination. 
3. Otherwise, patent circle of ___ with no evidence of focal
stenosis, occlusion, or aneurysm. 
4. Patent neck vasculature with no evidence of focal stenosis or
occlusion. 

CXR 
Cardiac silhouette is unremarkable.  There is no acute
abnormality in the lung fields, pleural cavity of bony
structures. 
  
IMPRESSION:   
No acute cardiopulmonary abnormality. 

___ MR HEAD W/O CONTRAST
Postoperative changes are seen in the right temporal region with 

encephalomalacia.  Chronic blood products are seen.  No acute
infarcts are identified.  Flow voids secondary to an AVM seen
which is better evaluated on the CTA examination obtained
previously.  Mild ex vacuo dilatation of the right lateral
ventricle seen.  There is no midline shift or hydrocephalus.  
Suprasellar and craniocervical regions are unremarkable. 

___ MR HEAD W/O CONTRAST (thin slices through brainstem)
Right temporal postoperative changes are re-demonstrated with 
encephalomalacia, extensive susceptibility artifact, and ex 
vacuo enlargement of the adjacent portions of the right lateral 
ventricle.  Stable FLAIR hyperintensity superior to the surgical 
bed, in the posterior frontal and anterior parietal lobes.  
Residual right middle cranial fossa AVM is better assessed on 
the CTA from 1 day prior on ___. 
There is no evidence of acute infarction in the brainstem or 
elsewhere.  
Pulsation artifact slightly limits evaluation of the medulla on 
axial FLAIR and T2 weighted images; no new signal abnormalities 
are seen to suggest recent infarction.  Major flow voids of the 
circle of ___ are preserved; the blood vessels are better 
assessed on the CTA from 1 day prior. 
  
IMPRESSION: 
1. No evidence for an acute infarction. 
2. Stable right temporal post treatment changes.  Residual right 
middle 
cranial fossa AVM is better assessed on the head CTA from 1 day 
prior on ___. 

___ TTE
IMPRESSION: Normal study. No evidence for right-to-left 
intracardiac shunt at rest or with maneuvers. Normal 
biventricular cavity sizes and regional/global biventricular 
systolic function. No valvular pathology or pathologic flow 
identified. Normal estimated pulmonary artery systolic
pressure.

 
Brief Hospital Course:
24 HR Data (last updated ___ @ 709)
    Temp: 98.7 (Tm 98.8), BP: 128/81 (108-154/68-86), HR: 63
(63-80), RR: 18 (___), O2 sat: 93% (93-97), O2 delivery: Ra  

ACTIVE ISSUES:
========
# Acute ischemic stroke
Patient presented with left ataxia in upper and lower extremity, 
vertigo, and gait difficulties, all sudden in onset and >24 
hours in duration. Initial MR imaging without acute stroke, 
however due to high suspicion of MR negative stroke a MR with 
thin slices through the brainstem was obtained, which also did 
not show a stroke. Given history, duration and quick onset of 
symptoms, a MR negative stroke in posterior circulation, 
possibly lateral medulla, remains highest on the differential. 
___ suspect some peripheral/inner ear problem however 
___ and HiNTs negative on exam. Migraine less likely 
given sudden onset of symptoms, no hx of migraines, and only 
minor headache.

As MR negative stroke most likely, he was checked for stroke 
risk factors and treated for acute ischemic stroke. Stroke risk 
factors include LDL 144 and A1c of 5.1%. He was started on 
atorvastatin 40 mg qHS. His blood pressures have been 130-150 
systolic without intervention. TTE revealed LVEF of 63%, no 
structural or cardioembolic source of infarct, and LA is not 
dilated. He was monitored on telemetry without signs of 
arrhythmia. A ziopatch will be needed on discharge. Prior 
radiation with cyberknife therapy unlikely to have contributed 
as it is very targeted radiation and to a different location of 
the brain. Discussed with patient and his Neurosurgeion Dr. 
___ risk and benefits of ASA 81 mg daily with his history 
of AVM and prior IPH. ASA would not increase his risk of AVM 
bleed but would make bleeding worse, annual risk of AVM bleed 
2-3%. At this point it was felt that benefits of stroke 
prevention outweigh the risks and he will start ASA 81 mg daily.

CHRONIC ISSUES:
===================
#Epilepsy
Phenytoin level 6.3, albumin WNL. MRI does show some degree of 
cerebellar atrophy, which might be contributed to chronic 
phenytoin use. This could be contributing to bilateral L>R upper 
extremity dysmetria. No changes were made to his phenytoin 
regimen during this hospitalization.

TRANSITIONAL ISSUES:
=====================
[]Stroke Neurology
- Started on ASA 81 mg daily
- Atorvastatin 40mg qHS started. Patient VERY concerned about 
this medication as his mom experienced fulminant liver failure 
after taking this medication. Can draw LFTs at 3month neurology 
appointment
- Ziopatch at time of discharge
[] Epilepsy
- Consider cerebellar atrophy ___ to chronic phenytoin use
- Phenytoin dosing to be adjusted at outpatient clinic if 
desired (follows with Dr. ___, currently without clinical 
seizures

=========================
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack 
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why: 
2. DVT Prophylaxis administered? (x) Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.) 
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () 
4. LDL documented? (x) Yes (LDL = 144) - () No 
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate] 
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No 
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given: 
 [ ] Statin medication allergy 
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist 
 [ ] LDL-c less than 70 mg/dL 
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () 
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - () No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1 
2. azelastine 137 mcg (0.1 %) nasal DAILY 
3. Halobetasol Propionate 0.05 % topical BID:PRN 
4. Phenytoin Infatab 50 mg PO DAILY 
5. Phenytoin Sodium Extended 300 mg PO DAILY 
6. Montelukast 10 mg PO DAILY 
7. Cetirizine 10 mg PO DAILY 

 
Discharge Medications:
1.  Atorvastatin 40 mg PO QPM  
2.  azelastine 137 mcg (0.1 %) nasal DAILY  
3.  Cetirizine 10 mg PO DAILY  
4.  EPINEPHrine (EpiPEN) 0.3 mg IM ONCE MR1  
5.  Halobetasol Propionate 0.05 % topical BID:PRN  
6.  Montelukast 10 mg PO DAILY  
7.  Phenytoin Infatab 50 mg PO DAILY  
8.  Phenytoin Sodium Extended 300 mg PO DAILY  
9.  Aspiring 81 mg daily

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - benefits from assistance with 
cane.

 
Discharge Instructions:
Dear Mr. ___,  

You were hospitalized due to symptoms of dizziness with 
room-spinning sensation resulting from an ACUTE ISCHEMIC STROKE, 
a condition where a blood vessel providing oxygen and nutrients 
to the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  Although stroke was not 
seen on imaging, given your symptoms and history we believe you 
had a small stroke in your brainstem.

Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  

1. High LDL Cholesterol
2. It is unknown if you have an abnormal heart rhythm which 
would increase your risk for stroke. You will need to wear a 
heart monitor for at least 2 weeks after discharge.

We are changing your medications as follows:  

1. Start taking Atorvastatin 40mg daily
2. We will discuss with you and your Neurosurgery team the risks 
and benefits of starting Aspirin 81mg daily in the setting of 
your AVM.

Please take your other medications as prescribed.
  
Please follow up with Neurology, Neurosurgery, and your primary 
care physician as listed below.  

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  

 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___